US06759420B1
2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide acetic acid salt, more polar diastereomer
To [3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid (41 mg, 0.1 mmol, less polar diastereomer, example 1h) and 2-(S)-amino-5-guanidino-pentanoic acid amide dihydrochloride (24.6 mg, 0.1 mmol) in dimethylformamide (5 ml) were added HATU (39 mg, 0.1 mmol) and collidine (24.2 mg, 0.2 mmol) at 0° C. The mixture was stirred for 1 hour and then allowed to warm to room temperature. After evaporation, the residue was purified by chromatography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water, and the aqueous solution was lyophilized. Yield: 50 mg (74%), MS m/z: 569.5 (M+H)+, 285.4 (M+2H)2+.

reactant | [3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-(S)-cyclohexyl-acetic acid | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C1CCCCC1 | C24H35N3O3
reactant | 2-(S)-amino-5-guanidino-pentanoic acid amide dihydrochloride | 0.1 mmol, 24.6 mg | Cl.Cl.N[C@H](C(=O)N)CCCNC(=N)N
reactant | HATU | 0.1 mmol, 39 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 0.2 mmol, 24.2 mg | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid amide acetic acid salt | C(C)(=O)O.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)N[C@H](C(=O)N)CCCNC(=N)N)C1CCCCC1)C1CCCCC1 | InChI=1S/C30H48N8O3.C2H4O2/c31-26(32)22-15-13-19(14-16-22)18-23(20-8-3-1-4-9-20)28(40)38-25(21-10-5-2-6-11-21)29(41)37-24(27(33)39)12-7-17-36-30(34)35;1-2(3)4/h13-16,20-21,23-25H,1-12,17-18H2,(H3,31,32)(H2,33,39)(H,37,41)(H,38,40)(H4,34,35,36);1H3,(H,3,4)/t23?,24-,25-;/m0./s1
